Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left hip pain
 
Major Surgical or Invasive Procedure:
Open reduction and internal fixation of left ___ 
femur fracture, ___, ___.

 
History of Present Illness:
NAME: ___   
MRN: ___
DATE: ___
RESIDENT: ___, MD 
ATTENDING: 
CONSULTING SERVICE: ED consulting Ortho 

CC: fall, left hip pain 

DATE OF INJURY: ___
MECHANISM: fall
SIDE: LEFT 
BONE: femur
LOCATION: PROXIMAL 
PATTERN: TRANSVERSE 
DISPLACEMENT: DISPLACED 
TYPE: CLOSED
TISSUE CLASSIFICATION: CLOSED 
EPISODE OF CARE: INITIAL

HPI: ___ male patient with significant cardiac history
including CAD status post CABG, AAA, hypertension 
hyperlipidemia,
recent total left hip replacement with Dr. ___ in ___
presenting to the ED as a transfer from outside hospital for 
left
femur fracture involving the prosthesis.  Patient got out of a
chair, slipped and fell onto his left side this morning.  He had
imaging done at the outside hospital, prior to arrival, 
including
hip, pelvis and left femur x-rays.  He was transferred here for
further care.  There was no associated head strike with this
fall.  The patient is not anticoagulated.

PMH:
Lumbar spinal stenosis
Advanced
bilateral hip osteoarthritis
HLD
AAA
PVD
CAD s/p CABG 
HTN
RBBB
Old ___ cerebellar infarct secondary to right vertebral artery 
occlusion

PSH: 
CABG 
L4-L5 laminectomy
umbilical hernia repair
L THR  

MEDS: 
aspirin 81mg daily
Colace 100mg BID
mirilax 17g/dose oral powder, 1 powder daily
Vitamin B-12 250 mcg tablet 1 tablet(s) by mouth once a day
ZzzQuil 25 mg capsule 1 capsule(s) by mouth at bedtime
metoprolol succinate ER 25 mg tablet,extended release 24 hr
1 tablet(s) by mouth once a day
simvastatin 20 mg tablet 1 tablet(s) by mouth once a day
tramadol 50 mg tablet

ALL: NKDA 

SHx: former smoker, occasional ETOH, denies IVDU. married.
retired 

ROS: A complete 10-point review of systems was completed and is
negative except as noted above.

PHYSICAL EXAMINATION:
General: A&O, comfortable 
Vitals: AFVVS 

Left lower extremity:
- Skin intact
- left leg shortened and externally rotated 
- left leg larger than R leg, significant asymmetry 
- Soft, but slightly ttp over the L thigh and femur
- Full, painless AROM/PROM of ankle
- ___/ fire
- SILT SPN/DPN/TN/saphenous/sural distributions
- 1+ ___ pulses, foot warm and well-perfused

LABS: 
 139  102  23   
----/----/----< 154
4.7   27   0.9
      12.1   
9.7 >-------< 78
      35.9   

___: 12.1  PTT: 25.1  INR: 1.1

IMAGING: OSH imaging L femur, hip/pelvis:
comminuted fracture involving the proximal left femur 

ASSESSMENT/RECOMMENDATIONS: 

- This is an operative injury which warrants surgical
intervention.
- Please admit to Orthopaedic Surgery - Dr. ___
- ___ for OR tomorrow (___). Please keep NPO past 
midnight.
- Please obtain pre-op labs including CBC, Chem-10, ___, PTT,
T&S and crossmatch 2 units, if not already done.
- Please obtain pre-op EKG and CXR
- Activity: NWB
- Antibiotics: none 
- Anticoagulation: Lovenox 40mg SC QPM
- Analgesia: Standard regimen

Please see attending addendum for final recommendations.

___, MD ___

 
Past Medical History:
PAST MEDICAL HISTORY:  
Lumbar spinal stenosis
Advanced
bilateral hip osteoarthritis
HLD
AAA
PVD
CAD s/p CABG 
HTN
RBBB
Old ___ cerebellar infarct secondary to right vertebral artery 
occlusion (noted in a ___ Neurology note ___

Past Surgical History: Coronary artery bypass graft x 5 in ___
using right-sided saphenous vein graft.  He had an abdominal 
aortic aneurysm ___. He has had three herniorrhaphies, two on 
the right, one on the left as well as an umbilical hernia repair 
and ___, had an L4-L5 laminectomy.
 
Social History:
___
Family History:
Positive for heart disease in father and arthritis, mother.
 
Physical Exam:
Exam on Discharge (Long version)

No acute distress
Unlabored breathing
Abdomen soft, non-tender, non-distended
Incision clean/dry/intact with no erythema or discharge, minimal 
ecchymosis
Splint in place, clean, dry, and intact
Aircast boot in place
Left lower extremity fires ___
Left lower extremity SILT sural, saphenous, superficial 
peroneal, deep peroneal and tibial distributions
Left lower extremity dorsalis pedis pulse 2+ with distal digits 
warm and well perfused
 
Pertinent Results:
labs were reviewed and notable for a platelet count less than 
100,000 throughout the admission. 
 
Brief Hospital Course:
Hospitalization Summary (ED Admit)
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left ___ femur fracture and was admitted 
to the orthopedic surgery service. The patient was taken to the 
operating room on ___ for operative fixation of his left 
hip., which the patient tolerated well. For full details of the 
procedure please see the separately dictated operative report. 
The patient was taken from the OR to the PACU in stable 
condition and after satisfactory recovery from anesthesia was 
transferred to the floor. The patient was initially given IV 
fluids and IV pain medications, and progressed to a regular diet 
and oral medications by POD#1. The patient was given 
___ antibiotics and anticoagulation per routine. The 
patient's home medications were continued throughout this 
hospitalization. The patient worked with ___ who determined that 
discharge to rehab was appropriate. The ___ hospital 
course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
touch down weight bearing with trochanteric off precautions (no 
active hip abduction in the left extremity, and will be 
discharged on enoxaparin for DVT prophylaxis. The patient will 
follow up with Dr. ___ routine. A thorough discussion 
was had with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.

The patient had a circular clacification in his left popliteal 
fossa that was evaluated with ulatrasound and by the vascular 
surgery team. It was determined to be a small 1.7 cm popliteal 
aneurysm. He will need to have this aneurysm followed by 
vascular surgery as an outpatient. 

 
Medications on Admission:
1. Aspirin 81 mg PO DAILY RX *aspirin [Adult Low Dose Aspirin] 
81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet Refills:*0  
2. DiphenhydrAMINE 25 mg PO QHS:PRN sleep RX *diphenhydramine 
HCl [___] 25 mg 1 capsule(s) by mouth at night Disp #*30 
Capsule Refills:*0  
3. Lisinopril 5 mg PO DAILY RX *lisinopril 5 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0  
4. Metoprolol Succinate XL 25 mg PO DAILY RX *metoprolol 
succinate 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0  fills:*0  
5. Pantoprazole 40 mg PO Q24H RX *pantoprazole 40 mg 1 tablet(s) 
by mouth daily Disp #*30 Tablet Refills:*0  
6. Simvastatin 20 mg PO QPM RX *simvastatin [FloLipid] 20 mg/5 
mL (4 mg/mL) 1 suspension(s) by mouth daily Refills:*0  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO 5 TIMES DAILY 
RX *acetaminophen [8 Hour Pain Reliever] 650 mg 1 tablet(s) by 
mouth every 6 hours Disp #*60 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  DiphenhydrAMINE 25 mg PO QHS:PRN sleep 
RX *diphenhydramine HCl [___] 25 mg 1 capsule(s) by mouth 
at night Disp #*30 Capsule Refills:*0 
4.  Docusate Sodium 100 mg PO BID 
use while taking narcotic pain medication. 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*14 Capsule Refills:*0 
5.  Enoxaparin Sodium 40 mg SC DAILY  
RX *enoxaparin 40 mg/0.4 mL 1 injfection subutaneous daily Disp 
#*25 Syringe Refills:*0 
6.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
7.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
8.  OxyCODONE (Immediate Release) 2.5-7.5 mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*28 
Tablet Refills:*0 
9.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
10.  Senna 8.6 mg PO BID 
use while taking narcotic pain medication. 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tablet by 
mouth twie daily Disp #*14 Tablet Refills:*0 
11.  Simvastatin 20 mg PO QPM 
RX *simvastatin [FloLipid] 20 mg/5 mL (4 mg/mL) 1 suspension(s) 
by mouth daily Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left ___ femur fracture. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:

INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- touch down weight bearing on the left lower extremity

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take enoxaparin daily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Please remain in your dressing and do not change unless it is 
visibly soaked or falling off.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

THIS PATIENT IS EXPECTED TO REQUIRE <30 DAYS OF REHAB

Physical Therapy:
physical therapy daily. Touch down weight bearing on the left 
lower extremity with trahanteric off precuations (no active hip 
abduction. 
Treatments Frequency:
Patient's incision can be left open air. No lotions to incision. 
No soaking or bathes. Showering is OK. 
He should observe touch down weight bearing on the left lower 
extremity.
 
Followup Instructions:
___